US06610704B1
A solution of 200 mL of DMF, containing 50.0 g of isonicotinamide and 60 mL of 2-bromopropane, was refluxed 5.75 h. A white insoluble solid filtered from this cool solution gave 64.9 g (65%) of 1-isopropylpyridinium-4-carboxamide bromide, m/e=165, NMR. Catalytic reduction of this salt, with PtO2 in MeOH, gave 65.2 g (98%) of 1-isopropylpiperidine-4-carboxamide hydrobromide, m/e=171. An aqueous solution of this salt was basified, evaporated to dryness, and extracted with EtOAc to give 39.7 g (90%) of 1-isopropylpiperidine-4-carboxamide free base.

reactant | isonicotinamide | 50.0 g | C(C1=CC=NC=C1)(=O)N | C6H6N2O
reactant | 2-bromopropane | 60 mL | BrC(C)C | C3H7Br
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 1-isopropylpyridinium-4-carboxamide bromide | 64.9 g, 65% | [Br-].C(C)(C)[N+]1=CC=C(C=C1)C(=O)N | InChI=1S/C9H12N2O.BrH/c1-7(2)11-5-3-8(4-6-11)9(10)12;/h3-7H,1-2H3,(H-,10,12);1H
